US04602041
Aminoguanidine hydrogen carbonate (0.96 g, 7.0 mmol) was added to a solution of concentrated hydrochloric acid (0.6 cm3) in water (2 cm3). After diluting the resulting solution with ethanol (20 cm3), 2,6-dichloro-4-nitrobenzaldehyde (1.53 g, 7.0 mmol) was added and the suspension heated under reflux for 2.5 h. The reaction mixture was cooled and diluted with diethyl ether to yield (2,6-dichloro-4-nitrobenzylidene amino)-guanidine hydrochloride as a yellow solid, mp 190° C. (dec).

reactant | Aminoguanidine hydrogen carbonate | 7.0 mmol, 0.96 g | C(O)(O)=O.NNC(=N)N
reactant | hydrochloric acid | 0.6 cm3 | Cl | ClH
reactant | 2,6-dichloro-4-nitrobenzaldehyde | 7.0 mmol, 1.53 g | ClC1=C(C=O)C(=CC(=C1)[N+](=O)[O-])Cl | C7H3Cl2NO3
solvent | water | 2 cm3 | O | H2O
solvent | ethanol | 20 cm3 | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | (2,6-dichloro-4-nitrobenzylidene amino)-guanidine hydrochloride | Cl.ClC1=C(C=NNC(=N)N)C(=CC(=C1)[N+](=O)[O-])Cl | InChI=1S/C8H7Cl2N5O2.ClH/c9-6-1-4(15(16)17)2-7(10)5(6)3-13-14-8(11)12;/h1-3H,(H4,11,12,14);1H
